US05637729
15.1 g (122 mmol) of potassium tert-butoxide are dissolved in 200 ml of tetrahydrofuran in a 500 ml, three-necked, round-bottomed flask under a dry argon atmosphere. The solution is cooled to -70° C. A solution containing 20 g (122 mmol) of alpha-methylbenzyl isothiocyanate, 16.55 g (122 mmol) of phenyl isothiocyanate and 50 ml of tetrahydrofuran is run in dropwise while keeping the temperature of the mixture below -60° C. On completion of addition, the mixture is held for 0.5 hour at -70° C. and then is left to return to room temperature. The mixture is poured into 500 ml of water. The mixture is acidified to pH=1 by addition of N hydrochloric acid. The product is extracted with ethyl acetate (2 extractions, each with 150 ml of solvent). The solution is dried over magnesium sulfate. The solution is concentrated under reduced pressure. The product is crystallized from 50 ml of ether. The precipitate is filtered. 21 g (yield: 58%) of 3,5-diphenyl-5-methyldithiohydantoin are thus obtained as a yellow powder melting at 157° C.

reactant | potassium tert-butoxide | 122 mmol, 15.1 g | CC(C)([O-])C.[K+]
reactant | alpha-methylbenzyl isothiocyanate | 122 mmol, 20 g | CC(C1=CC=CC=C1)N=C=S | C9H9NS
reactant | phenyl isothiocyanate | 122 mmol, 16.55 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | 3,5-diphenyl-5-methyldithiohydantoin | 21 g, yield: 58% | C1(=CC=CC=C1)N1C(NC(C1=S)(C)C1=CC=CC=C1)=S | C16H14N2S2
